US08541445B2
Step 4: 2-(5-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiophen-3-yl)-2-methylbutanenitrile
A mixture of 2-(5-bromo-3-thienyl)-2-methyl-butanenitrile (789 mg, 3.232 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine (1.750 g, 3232 mmol), Na2CO3 (4.848 mL of 2 M, 9.696 mmol) and tetrakis(triphenylphosphine) palladium(0) (112.0 mg, 0.09696 mmol) in DME (12 mL) was heated at 150° C. for 10 minutes in the microwave. The mixture was treated with water/EtOAc and the two layers separated. The organics were dried (MgSO4), filtered, concentrated and the resultant residue was dissolved in DCM (8 mL) and treated with triethylsilane (5 mL) and TFA (1.5 mL) at RT. The reaction was allowed to stir for 2 hours, concentrated in vacuo and purified by column chromatography (1:1 to 2:1 Petroleum ether/EtOAc) to give the required product (236 mg, 26% Yield). 1H NMR (CDCl3, 400 MHz) δ 1.06 (3H, m), 1.78 (3H, s), 2.05 (2H, m), 7.49 (1H, m), 7.53 (1H, m), 7.63 (1H, m), 8.42 (1H, m), 8.60 (1H, m); MS (ES+) 283.09

reactant | 2-(5-bromo-3-thienyl)-2-methyl-butanenitrile | 3.232 mmol, 789 mg | BrC1=CC(=CS1)C(C#N)(CC)C | C9H10BrNS
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine | 3232 mmol, 1.750 g | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C31H30BN3O2
reactant | Na2CO3 | 9.696 mmol, 2 M, 4.848 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water EtOAc | O.CCOC(=O)C
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.09696 mmol, 112.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(5-(1H-pyrazolo[3,4-b]pyridin-4-yl)thiophen-3-yl)-2-methylbutanenitrile | 236 mg, 26% Yield | N1N=CC=2C1=NC=CC2C2=CC(=CS2)C(C#N)(CC)C | C15H14N4S
